US07256178B2
(3) (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-7-((4-nitrophenoxy)carboxy)-18,19-epoxytricosa-8,12,14-trien-11-olide
A solution of (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-7,16-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (271 mg, 0.3605 mmol), 4-dimethylaminopyridine (22 mg, 0.18 mmol) and triethylamine (369 mg, 3.61 mmol) in methylene chloride (5 mL) was cooled to 5° C. A solution of 4-nitrophenyl chloroformate (374 mg, 1.8 mmol) in methylene chloride (3 mL) was added dropwise to the solution, and the reaction mixture was stirred at 5 to 10° C. for one hour. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed with an aqueous solution of sodium hydrogencarbonate. The resulting organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane, 1:9->1:7->1:6) to obtain the title compound (319.6 mg, 97%) as a yellow pale oil.

reactant | (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-7,16-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.3605 mmol, 271 mg | C(C)[Si](OC1CC(=O)OC(C(/C=C/C(C(CC1)C)O)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](C(C)C)(CC)CC)C)O1)(C)O)\C)(C(C)C)CC | C42H78O7Si2
reactant | triethylamine | 3.61 mmol, 369 mg | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 1.8 mmol, 374 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.18 mmol, 22 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-7-((4-nitrophenoxy)carboxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 319.6 mg, 97% | C(C)[Si](OC1CC(=O)OC(C(/C=C/C(C(CC1)C)C(=O)OOC1=CC=C(C=C1)[N+](=O)[O-])C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](C(C)C)(CC)CC)C)O1)(C)O)\C)(C(C)C)CC | C49H81NO11Si2
